US09278953B2
To a large microwave vial was added (R)-3-(6-chloro-2-methoxypyridin-3-yl)-3-methylpiperidin-2-one (1.20 g, 4.7 mmol), 1-methyl-1H-indol-5-ylboronic acid (0.82 g, 4.7 mmol), dioxane (10 mL), 2 M Na2CO3 (5.9 mL, 11.8 mmol), and PdCl2(dppf) CH2Cl2 (193 mg, 0.236 mmol). Nitrogen gas was bubbled through the reaction mixture for 5 minutes prior to sealing the vessel. The reaction was stirred for 18 h at 105° C. The mixture was cooled to r.t., diluted with ethyl acetate, and filtered over Celite®. The filtrate was concentrated to a brown paste. Purification by column chromatography (80 g RediSep Gold column) with a 0-10% EtOH/DCM gradient provided (R)-3-(2-methoxy-6-(1-methyl-1H-indol-5-yl)pyridin-3-yl)-3-methylpiperidin-2-one (1.54 g, 94%) as a light orange solid. 1H NMR (600 MHz, CDCl3) δ: 1.62-1.69 (m, 1H), 1.72 (s, 3H), 1.77-1.86 (m, 1H), 1.93-2.03 (m, 1H), 2.39 (td, 1H), 3.36-3.44 (m, 1H), 3.52 (td, 1H), 3.82 (s, 3H), 4.11 (s, 3H), 6.16 (br s., 1H), 6.56 (d, 1H), 7.07 (d, 1H), 7.36 (d, 1H), 7.38 (d, 1H), 7.62 (d, 1H), 7.93 (dd, 1H), 8.29 (s, 1H); MS (ES+)(M+H) 350.

reactant | (R)-3-(6-chloro-2-methoxypyridin-3-yl)-3-methylpiperidin-2-one | 4.7 mmol, 1.20 g | ClC1=CC=C(C(=N1)OC)[C@@]1(C(NCCC1)=O)C | C12H15ClN2O2
reactant | 1-methyl-1H-indol-5-ylboronic acid | 4.7 mmol, 0.82 g | CN1C=CC2=CC(=CC=C12)B(O)O | C9H10BNO2
reactant | Na2CO3 | 11.8 mmol, 2 M, 5.9 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | PdCl2(dppf) CH2Cl2 | 0.236 mmol, 193 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (R)-3-(2-methoxy-6-(1-methyl-1H-indol-5-yl)pyridin-3-yl)-3-methylpiperidin-2-one | 1.54 g, 94% | COC1=NC(=CC=C1[C@@]1(C(NCCC1)=O)C)C=1C=C2C=CN(C2=CC1)C | C21H23N3O2
